US04898855
Preparation of [3aS-[3(1R*,3S*),3aα,7β,7aβ]]-7-(acetyloxy)-3-(3-chloro-4-bromo-1-methylbutyl)-3a,4,5,6,7,7a-hexahydro-3a-methyl-1H-indene
A solution of 1.50 g (4.76 mmol) of [3aS-[3(βS*,δR*),3aα,7β,7aβ]]-7-(acetyloxy)-β-chloro-3a,4,5,6,7,7a-hexahydro-δ,3a-dimethyl-1H-indene-3-butanol in 20 mL of dichloromethane and 20 mL of pyridine was treated at 0° C. and under argon with 4.50 g (23.60 mmol) of p-toluenesulfonyl chloride and then stirred overnight at 0° C. Water (8 mL) was then added and, after stirring the resulting mixture for 1 hour at room temperature, the solvents were removed in vacuo and the residue diluted with water and extracted with ethyl acetate. The combined organic extracts were subsequently washed with 1N hydrochloric acid, water, 2N aqueous potassium bicarbonate solution and brine and dried. The residue obtained after evaporation of the ethyl acetate (weighing 2.10 g) was dissolved in 40 mL of N,N-dimethylformamide and heated under argon at 50° C. with 4.00 g (46.06 mmol) of anhydrous lithium bromide for 17 hours. After cooling, the reaction mixture was diluted with ice water and extracted with ethyl acetate. The combined organic extracts were washed several times with water, dried and evaporated to dryness to give 1.62 g (90% overall yield) of the title compound. 1H NMR (60 MHz, CDCl3) δ0.88 (s, 3H), 1.07 (d, J=6.4 Hz, 3H), 2.03 (s, 3H), 3.60 (br AB q, J=10.2 Hz, Δγ=14.0 Hz, 2H), 5.00 br m, 1H), 5.33 (br s, 1H) ppm.

reactant | 7-(acetyloxy)-β-chloro-3a,4,5,6,7,7a-hexahydro-δ,3a-dimethyl-1H-indene-3-butanol | C(C)(=O)OC1CCCC2(C(=CCC12)C(CC(CO)Cl)C)C | C17H27ClO3
reactant | p-toluenesulfonyl chloride | 23.60 mmol, 4.50 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | Water | 8 mL | O | H2O
reactant | lithium bromide | 46.06 mmol, 4.00 g | [Br-].[Li+]
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | pyridine | 20 mL | N1=CC=CC=C1 | C5H5N
product | 7-(acetyloxy)-3-(3-chloro-4-bromo-1-methylbutyl)-3a,4,5,6,7,7a-hexahydro-3a-methyl-1H-indene | C(C)(=O)OC1CCCC2(C(=CCC12)C(CC(CBr)Cl)C)C | C17H26BrClO2
